US07888366B2
A solution of (R)-6-chloroindan-1-ol (0.45 g, 2.67 mmol) in dimethylformamide was added to a cooled (0° C.) slurry of sodium hydride (112 mg, 2.8 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was slowly warmed to room temperature, stirred for 1 hour. Again, cooled (0° C.), then a solution of 2,6-difluorobenzonitrile (0.41 g, 2.94 mmol) in dimethylfomamide was added, stirred overnight at room temperature. The reaction mixture was poured on crushed-ice water, stirred, filtered, and dried to yield 450 mg of 2-fluoro-5-((R)-6-chloroindan-1-yloxy)benzonitrile.

reactant | (R)-6-chloroindan-1-ol | 2.67 mmol, 0.45 g | ClC1=CC=C2CC[C@H](C2=C1)O | C9H9ClO
reactant | sodium hydride | 2.8 mmol, 112 mg | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | 2.94 mmol, 0.41 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-fluoro-5-((R)-6-chloroindan-1-yloxy)benzonitrile | 450 mg | FC1=C(C#N)C=C(C=C1)O[C@@H]1CCC2=CC=C(C=C12)Cl | C16H11ClFNO
